US07569600B2
To a stirred solution of 5-bromo-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (500 mg, 1.09 mmol) in toluene (5 mL) were added (PPh3)4Pd (164 mg, 0.13 mmol) and 1,1,1,2,2,2-hexabutyl-distannane (1.09 mL, 2.18 mmol) under nitrogen. The reaction mixture was stirred and heated to 110° C. during 8 h. The progress of the reaction was monitored by TLC. Filtration and removal of the solvent under reduced pressure on a rotary evaporator followed by flash column chromatographic purification using EtOAc and hexane (1:1), afforded 3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-tributylstannanyl-thiophene-2-carboxylic acid methyl ester (150 mg, 21%) as a syrup.

reactant | 5-bromo-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 1.09 mmol, 500 mg | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)Br | C20H28BrNO4S
reactant | 1,1,1,2,2,2-hexabutyl-distannane | 2.18 mmol, 1.09 mL | C(CCC)[Sn]([Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | (PPh3)4Pd | 0.13 mmol, 164 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-tributylstannanyl-thiophene-2-carboxylic acid methyl ester | 150 mg, 21% | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C20H28NO4S.3C4H9.Sn/c1-13-3-5-14(6-4-13)19(23)21(15-7-9-16(22)10-8-15)17-11-12-26-18(17)20(24)25-2;3*1-3-4-2;/h11,13-16,22H,3-10H2,1-2H3;3*1,3-4H2,2H3;/t13-,14-,15-,16-;;;;
